US05051509
A mixture of 7-(3-aminopiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.21 g) obtained as described in Example 1(b), sodium methoxide (1.2 g) and dimethylsulfoxide (40 ml) was stirred for 2 hours at 120°-140° C. The reaction mixture was concentrated in vacuum and water was added to the residue. Neutralization of the mixture with 1N hydrochloric acid followed by evaporation of the solvent and purification by silica gel column chromatography (chloroform:methanol:ammonium hydroxide=100:30:5) gave 7-(3-aminopiperidin-1-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid. The physical properties of this product wereidentical with those of the compound obtained in Example 6.

reactant | 7-(3-aminopiperidin-1-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.21 g | NC1CN(CCC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C18H19F2N3O3
reactant | sodium methoxide | 1.2 g | C[O-].[Na+]
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 7-(3-aminopiperidin-1-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | NC1CN(CCC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C19H22FN3O4
